US05506235
D. 4-[4-(Cyclohexylmethyloxy)phenylamino]quinolin-6,8-diol Hydrochloride
In a manner similar to that described in Example 39, Part B, 4-chloroquinolin-6,8-diol hemihydrate and 4-(cyclohexylmethyloxy)aniline were tranformed into the title compound: m.p. 294° C. (dec.).

reactant | 4-chloroquinolin-6,8-diol hemihydrate | O.ClC1=CC=NC2=C(C=C(C=C12)O)O.ClC1=CC=NC2=C(C=C(C=C12)O)O
reactant | 4-(cyclohexylmethyloxy)aniline | C1(CCCCC1)COC1=CC=C(N)C=C1 | C13H19NO
product | 4-[4-(Cyclohexylmethyloxy)phenylamino]quinolin-6,8-diol Hydrochloride | Cl.C1(CCCCC1)COC1=CC=C(C=C1)NC1=CC=NC2=C(C=C(C=C12)O)O | InChI=1S/C22H24N2O3.ClH/c25-17-12-19-20(10-11-23-22(19)21(26)13-17)24-16-6-8-18(9-7-16)27-14-15-4-2-1-3-5-15;/h6-13,15,25-26H,1-5,14H2,(H,23,24);1H
